US05705456
d) 3-Amino-1-(3-trifluoromethoxyphenyl)-2-pyrrolidinone
A stirred solution of crude 3-azido-1-(3-trifluoromethoxyphenyl)-2-pyrrolidinone (3.50 g) in 1,3-propanedithiol (10 ml) was treated with triethylamine (4 ml). The solution was stirred for 16 hours then poured into water. The resultant mixture was extracted with diethyl ether (x3), the combined ether extracts washed with brine and dried (MgSO4). Evaporation of the solvent under reduced pressure left a yellow oil which was separated by chromatography on silica-gel, eluting with ethyl acetate followed by a 1:1 mixture of ethyl acetate and methanol, to give the sub-title compound as a clear solid (2.24 g).

reactant | 3-azido-1-(3-trifluoromethoxyphenyl)-2-pyrrolidinone | 3.50 g | N(=[N+]=[N-])C1C(N(CC1)C1=CC(=CC=C1)OC(F)(F)F)=O | C11H9F3N4O2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,3-propanedithiol | 10 ml | C(CCS)S | C3H8S2
product | 3-Amino-1-(3-trifluoromethoxyphenyl)-2-pyrrolidinone | 2.24 g | NC1C(N(CC1)C1=CC(=CC=C1)OC(F)(F)F)=O | C11H11F3N2O2
